US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (1.0 g, 2.36 mmol, from preparation A) and 6-chloro-2-(4-cyanophenyl)hexanoic acid (0.741 g, 2.94 mmol, from preparation AU) were coupled [N-methylmorpholine (1.29 mL, 11.8 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.370 mL, 11.8 mmol) using a procedure analogous to Step A of Example 13. After aqueous workup, 4-(5-chloro-1-(3-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-1H-1,2,4-triazol-5-yl)pentyl)benzonitrile was obtained. The crude product was used in the subsequent step without purification. LC-MS (M+H)+ 496.2.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-cyanophenyl)hexanoic acid | 2.94 mmol, 0.741 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)C#N | C13H14ClNO2
reactant | N-methylmorpholine | 11.8 mmol, 1.29 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 11.8 mmol, 0.370 mL | NN | H4N2
product | 4-(5-chloro-1-(3-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-1H-1,2,4-triazol-5-yl)pentyl)benzonitrile | ClCCCCC(C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC)C1=CC=C(C#N)C=C1 | C24H23Cl2N7O
